US04608379
2-Picoline (2.79 g, 0.03 mole) and 1-bromo-hexane (5.0 g, 0.03 mole) were heated in an oil bath at 130° C. for five hours. The resulting oil was cooled and dissolved in methanol (40 ml). 4-Piperidinobenzaldehyde (5.67 g, 0.03 mole) and piperidine (0.25 ml) were added and the mixture was refluxed under nitrogen for two hours. The addition of about 100 ml of ether to the cold solution gave red crystals which were collected and washed to give 1-hexyl-2-[(4-piperidino)styryl]-pyridinium bromide (2.1 g), melting point 212°-214° C. (decomposition).

reactant | 2-Picoline | 0.03 mole, 2.79 g | N1=C(C=CC=C1)C | C6H7N
reactant | 1-bromo-hexane | 0.03 mole, 5.0 g | BrCCCCCC | C6H13Br
reactant | 4-Piperidinobenzaldehyde | 0.03 mole, 5.67 g | N1(CCCCC1)C1=CC=C(C=O)C=C1 | C12H15NO
reactant | piperidine | 0.25 ml | N1CCCCC1 | C5H11N
solvent | methanol | 40 ml | CO | CH4O
solvent | ether | about 100 ml | CCOCC | C4H10O
product | 1-hexyl-2-[(4-piperidino)styryl]-pyridinium bromide | 2.1 g | [Br-].C(CCCCC)[N+]1=C(C=CC=C1)C=CC1=CC=C(C=C1)N1CCCCC1 | InChI=1S/C24H33N2.BrH/c1-2-3-4-7-18-25-21-10-6-11-23(25)15-12-22-13-16-24(17-14-22)26-19-8-5-9-20-26;/h6,10-17,21H,2-5,7-9,18-20H2,1H3;1H/q+1;/p-1
